US08067445B2
Step 2: Difluoro-[4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 2, using the following starting materials: (3-bromo-4-methoxy-phenyl)-difluoro-acetic acid ethyl ester and bis(pinacolato)diboron.

reactant | (3-bromo-4-methoxy-phenyl)-difluoro-acetic acid ethyl ester | C(C)OC(C(F)(F)C1=CC(=C(C=C1)OC)Br)=O | C11H11BrF2O3
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | Difluoro-[4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(C(C1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)(F)F)=O | C17H23BF2O5
